US04103086
Methyl cis-1-(2,4-Dimethoxybenzyl)-3-amino-4-oxoazetidine-2-carboxylate
A mixture containing 10.0 g (0.0312 mole) of methyl cis-1-(2,4-dimethoxybenzyl)-3-azido-4-oxoazetidine-2-carboxylate, 1.0 g of 10% palladium on carbon, and 200 ml of ethanol is hydrogenated for 2 hrs at 40°-45° and 60 psi of hydrogen. The reaction mixture is allowed to cool to 25° and is filtered through filter-air. After removing the solvents in vacuo a clear, yellow gum of the title product is obtained.

reactant | methyl cis-1-(2,4-dimethoxybenzyl)-3-azido-4-oxoazetidine-2-carboxylate | 0.0312 mole, 10.0 g | COC1=C(CN2[C@H]([C@H](C2=O)N=[N+]=[N-])C(=O)OC)C=CC(=C1)OC | C14H16N4O5
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | Methyl cis-1-(2,4-Dimethoxybenzyl)-3-amino-4-oxoazetidine-2-carboxylate | COC1=C(CN2[C@H]([C@H](C2=O)N)C(=O)OC)C=CC(=C1)OC | C14H18N2O5
